US08283354B2
To 4-[2-(2-{[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetoxy)-4-methyl-pentanoyl]-piperazine-1-carboxylic acid benzyl ester (208 mg, 0.49 mmol) in 1.6 mL of methanol was added 70 mg of Pd/C (10% wt Pd on carbon). The reaction mixture was hydrogenated using a balloon of H2 for 4 h at room temperature. The mixture was then filtered through Celite, and the solvent removed to give {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid 3-methyl-1-(piperazine-1-carbonyl)-butyl ester.

reactant | 4-[2-(2-{[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetoxy)-4-methyl-pentanoyl]-piperazine-1-carboxylic acid benzyl ester | 0.49 mmol, 208 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(CC(C)C)OC(CN(C)C(CN(C)C(=O)OC(C)(C)C)=O)=O)=O | C29H44N4O8
solvent | methanol | 1.6 mL | CO | CH4O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid 3-methyl-1-(piperazine-1-carbonyl)-butyl ester | CC(CC(C(=O)N1CCNCC1)OC(CN(C)C(CN(C)C(=O)OC(C)(C)C)=O)=O)C | C21H38N4O6
